US08222417B2
To a solution of 6-aminoquinoline (1.0 g) in 42% tetrafluoroboric acid (5 ml), sodium nitrite (527 mg) was added under ice cooling and stirred at the same temperature for 1 hour. After addition of diethyl ether:ethyl acetate=1:1 (10 ml), the reaction mixture was decanted and the precipitate was dried. To the dried product, toluene (20 ml) was added and heated under reflux for 2 hours. The reaction mixture was decanted, and the resulting residue was dissolved in 1M aqueous hydrochloric acid and alkalized with saturated aqueous sodium carbonate. Insoluble materials were filtered off and the filtrate was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then filtered to remove the desiccant, followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:diethyl ether=4:1 to 1:1) to give 6-fluoroquinoline (273 mg) as an orange-colored oil. To a solution of 6-fluoroquinoline thus obtained (273 mg) in methanol (50 ml), 10% palladium on activated carbon (50 mg) was added and stirred overnight under a hydrogen atmosphere (60 psi) at room temperature. After the reaction mixture was filtered, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=10:1 to 4:1) to give the titled compound, i.e., 6-fluoro-1,2,3,4-tetrahydroquinoline (172 mg) as a light-brown oil.

reactant | 6-aminoquinoline | 1.0 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | sodium nitrite | 527 mg | N(=O)[O-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | tetrafluoroboric acid | 5 ml | F[B-](F)(F)F.[H+]
product | 6-fluoroquinoline | 273 mg | FC=1C=C2C=CC=NC2=CC1 | C9H6FN
